US07384934B2
(S)-2-(3-Carboxypropyl)-piperazine-1,4-dicarboxylic acid di-tert-butyl ester
Stir a solution of (S)-2-(3-ethoxycarbonylpropyl)-piperazine-1,4-dicarboxylic acid di-tert-butyl ester (0.739 g, 1.84 mmol) in MeOH add 1.0 N NaOH (2.13 mL) and continue stirring overnight. Concentrate the mixture under reduced pressure, dilute with H2O (40 mL) and wash with Et2O (3×30 mL). Acidify the aqueous layer with 10% NaHSO4 (20 mL) and extract with EtOAc (3×50 mL). Dry the organic layer with Na2SO4 filter, concentrate under reduced pressure and place the residue under vacuum to give the title compound: white solid (0.618 g), mass spectrum (m/e):373.07 (M+H).

reactant | (S)-2-(3-ethoxycarbonylpropyl)-piperazine-1,4-dicarboxylic acid di-tert-butyl ester | 1.84 mmol, 0.739 g | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)CCCC(=O)OCC | C20H36N2O6
reactant | NaOH | 1.0 N, 2.13 mL | [OH-].[Na+]
solvent | MeOH | CO | CH4O
product | (S)-2-(3-Carboxypropyl)-piperazine-1,4-dicarboxylic acid di-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)CCCC(=O)O | C18H32N2O6
